### PR TITLE
[Merged by Bors] - feat: Compute derivative of `fun x ↦ f (a - x)`

### PR DESCRIPTION
**Pull request by YaelDillies**
... and similar. Also generalise existing lemmas to not require differentiability assumptions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/Deriv/Shift.lean [hunk 1]
```diff
@@ -1,48 +1,63 @@
...
 
 /-- The derivative of `x ↦ f (-x)` at `a` is the negative of the derivative of `f` at `-a`. -/
-lemma deriv_comp_neg {𝕜 : Type*} [NontriviallyNormedField 𝕜] {F : Type*} [NormedAddCommGroup F]
-    [NormedSpace 𝕜 F] (f : 𝕜 → F) (a : 𝕜) : deriv (fun x ↦ f (-x)) a = -deriv f (-a) := by
-  by_cases h : DifferentiableAt 𝕜 f (-a)
-  · simpa only [deriv_neg, neg_one_smul] using deriv.scomp a h (differentiable_neg _)
-  · rw [deriv_zero_of_not_differentiableAt (mt differentiableAt_comp_neg_iff.mpr h),
-      deriv_zero_of_not_differentiableAt h, neg_zero]
+lemma deriv_comp_neg : deriv (fun x ↦ f (-x)) x = -deriv f (-x) := by
+  by_cases f : DifferentiableAt 𝕜 f (-x)
```
Comment (dupuisf) [inline Mathlib/Analysis/Calculus/Deriv/Shift.lean:43]: Shouldn't all these `deriv` lemmas be simp lemmas?

File: Mathlib/Analysis/Calculus/Deriv/Add.lean [hunk 2]
```diff
@@ -120,6 +120,18 @@ theorem deriv_const_add (c : F) : deriv (fun y => c + f y) x = deriv f x := by
...
+lemma differentiableAt_comp_const_add {a b : 𝕜} :
+    DifferentiableAt 𝕜 (fun x ↦ f (b + x)) a ↔ DifferentiableAt 𝕜 f (b + a) := by
+  refine ⟨fun H ↦ ?_, fun H ↦ H.comp _ (differentiable_id.const_add _).differentiableAt⟩
+  convert DifferentiableAt.comp (b + a) (by simpa)
+    (differentiable_id.const_add (-b)).differentiableAt
+  ext
+  simp
+
+lemma differentiableAt_comp_add_const {a b : 𝕜} :
+    DifferentiableAt 𝕜 (fun x ↦ f (x + b)) a ↔ DifferentiableAt 𝕜 f (a + b) := by
```
Comment (dupuisf) [inline Mathlib/Analysis/Calculus/Deriv/Add.lean:132]: Do we want iff versions like for the other ones below?

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/Calculus/Deriv/Shift.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Calculus/Deriv/Shift.lean:43]: I doubt so. Since lambdas aren't (yet) indexed in the discrimination tree, their key would all be of the form `deriv ?_ ?_` which is rather generic. Maybe not a performance issue since there aren't so many uses of `deriv`, but for now I would rather not.

File: Mathlib/Analysis/Calculus/Deriv/Add.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Calculus/Deriv/Add.lean:132]: I decided against them because they would involve subtraction, but I could be convinced otherwise

File: Mathlib/Analysis/Calculus/Deriv/Shift.lean (hunk 1 above)
Comment (dupuisf) [reply Mathlib/Analysis/Calculus/Deriv/Shift.lean:43]: Fair enough.

File: Mathlib/Analysis/Calculus/Deriv/Add.lean (hunk 2 above)
Comment (dupuisf) [reply Mathlib/Analysis/Calculus/Deriv/Add.lean:132]: Well, I'll leave it up to you.

Comment (YaelDillies) [reply Mathlib/Analysis/Calculus/Deriv/Add.lean:132]: Added :)

**Comment by YaelDillies** [comment]
bors merge
